US08541440B2
4.1 5-[2-(−1-triphenylmethylimidazol-4-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]oct-3-ene
0.25 g (0.94 mmol) of 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene (WO 03/057 697) dissolved in 3 ml of tetrahydrofuran, 1.24 g (2.07 mmol) of 1-triphenylmethyl-4-tributylstannylimidazole and 0.06 g (0.08 mmol) of bis(triphenylphosphine)dichloropalladium are successively introduced into a 10 ml three-necked round-bottomed flask. The mixture is then heated at 85° C. for 15 hours and then diluted in 10 ml of chloroform and 10 ml of saturated aqueous sodium carbonate solution.

reactant | 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene | 0.94 mmol, 0.25 g | BrC1=NC=C(C=C1)C12C=CCN(CC1)C2 | C12H13BrN2
reactant | 1-triphenylmethyl-4-tributylstannylimidazole | 2.07 mmol, 1.24 g | C1(=CC=CC=C1)C(N1C=NC(=C1)[Sn](CCCC)(CCCC)CCCC)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)dichloropalladium | 0.08 mmol, 0.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-[2-(−1-triphenylmethylimidazol-4-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]oct-3-ene | C1(=CC=CC=C1)C(N1C=NC(=C1)C1=NC=C(C=C1)C12C=CCN(CC1)C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N4
